US04107308
4,5-Dimethyl-2-n-propyl-2-imidazoline-4,5-diol hydrochloride
A 112.7 gm. portion of butyramidine hydrochloride is dissolved in 200 ml. of water. A 107 gm. portion of freshly distilled diacetyl is added and the mixture is stirred. The pH is adjusted to 6.5-7.0 with 2N NaOH and the solution is chilled. The desired product is collected as a solid, m.p. 104°-107° C.

reactant | butyramidine hydrochloride | Cl.C(CCC)(=N)N
reactant | NaOH | 2N | [OH-].[Na+]
reactant | water | O | H2O
product | 4,5-Dimethyl-2-n-propyl-2-imidazoline-4,5-diol hydrochloride | Cl.CC1(N=C(NC1(O)C)CCC)O | InChI=1S/C8H16N2O2.ClH/c1-4-5-6-9-7(2,11)8(3,12)10-6;/h11-12H,4-5H2,1-3H3,(H,9,10);1H
